US07915443B2
2,5-Dimethyl-2H-pyrazole-3-carboxylic acid (3-ethynyl-phenyl)-amide
A dry 25 mL flask was charged with 2,5-dimethyl-2H-pyrazole-3-carbonyl chloride (0.135 g, 0.854 mmol) and THF (5 mL) was added. 3-Ethynyl-phenylamine (0.100 g, 0.854 mmol) was added to the THF solution of the acid chloride followed by NEt3, and the mixture was allowed to stir at 55° C. The reaction mixture was then allowed to cool to room temperature. The reaction was extracted twice with EtOAc (5 mL) and water (10 mL) followed by saturated aqueous NaHCO3 (˜10 mL). The combined organic layers were dried over anhydrous Na2SO4 (s) and then concentrated. The crude residue was purified by chromatography (silica gel, gradient elution EtOAc/Hexanes 0 to 60%). The product containing fractions were concentrated to give the title compound as a tan solid (147 mg. 72%).

reactant | 2,5-dimethyl-2H-pyrazole-3-carbonyl chloride | 0.854 mmol, 0.135 g | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | 3-Ethynyl-phenylamine | 0.854 mmol, 0.100 g | C(#C)C=1C=C(C=CC1)N | C8H7N
solvent | NEt3 | CCN(CC)CC | C6H15N
product | 2,5-Dimethyl-2H-pyrazole-3-carboxylic acid (3-ethynyl-phenyl)-amide | 147 mg, 72% | C(#C)C=1C=C(C=CC1)NC(=O)C=1N(N=C(C1)C)C | C14H13N3O
